US05202351
To 1 g (6.41 mmol) of 2,6-dimethoxybenzoic acid, were added 10 ml of toluene, 1.05 ml (6.79 mmol) of triethylamine and 1.41 ml (6.54 mmol) of diphenylphosphoryl azide and stirred at 100° C. for one hour. The reaction solution was cooled to room temperature, then added with a 5 ml of toluene solution of 1.40 g (6.41 mmol) of 2-(3,4-methylenedioxyphenyl)-hexylamine and stirred overnight at room temperature. The thus treated reaction solution was purified by silica gel column chromatography (developed with a 2/1 mixture of hexane and ethyl acetate) and then recrystallized from the hexane/ethyl acetate mixed solvent to obtain 330 mg of 1-(2-(3,4-methylenedioxyphenyl)hexyl)-3-(2,6-dimethyoxyphenyl)urea (yield: 12.9%).

reactant | 2,6-dimethoxybenzoic acid | 6.41 mmol, 1 g | COC1=C(C(=O)O)C(=CC=C1)OC | C9H10O4
reactant | triethylamine | 6.79 mmol, 1.05 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 6.54 mmol, 1.41 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 2-(3,4-methylenedioxyphenyl)-hexylamine | 6.41 mmol, 1.40 g | C1OC=2C=C(C=CC2O1)C(CN)CCCC | C13H19NO2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-(3,4-methylenedioxyphenyl)hexyl)-3-(2,6-dimethyoxyphenyl)urea | 330 mg, yield: 12.9% | C1OC=2C=C(C=CC2O1)C(CNC(=O)NC1=C(C=CC=C1OC)OC)CCCC | C22H28N2O5
